US04788199
The procedure is as in Example 1, starting with ethyl 2-(3-methoxyphenyl)-4-quinazolinepropionate (1.2 g) and diethylamine (30 cc). After chromatography on silica gel with a cyclohexane/ethyl acetate (1:1 by volume) mixture as eluant, and crystallization in isopropyl ether, N,N-diethyl-2-(3-methoxyphenyl)-4-quinazolinepropanamide (0.36 g), m.p. 87° C., is obtained.

reactant | ethyl 2-(3-methoxyphenyl)-4-quinazolinepropionate | 1.2 g | COC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)CCC(=O)OCC | C20H20N2O3
solvent | diethylamine | 30 cc | C(C)NCC | C4H11N
product | N,N-diethyl-2-(3-methoxyphenyl)-4-quinazolinepropanamide | 0.36 g | C(C)N(C(CCC1=NC(=NC2=CC=CC=C12)C1=CC(=CC=C1)OC)=O)CC | C22H25N3O2
